US05597921
A solution of 3.40 g (15.0 mmol) of 4-bromoisatin and 1.63 g (1 eq.) of 1,2-phenylenediamine in 50 ml of acetic acid was refluxed for 2 hours. The reaction solution was allowed to stand at room temperature for 16 hours, and the resulting precipitate was collected by filtration to give 10-bromoindolo[2,3-b]quinoxaline.

reactant | 4-bromoisatin | 15.0 mmol, 3.40 g | BrC1=C2C(C(NC2=CC=C1)=O)=O | C8H4BrNO2
reactant | 1,2-phenylenediamine | 1.63 g, 1 eq. | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 10-bromoindolo[2,3-b]quinoxaline | BrC=1C2=C(C=CC1)N=C1NC3=CC=CC=C3N=C12 | C14H8BrN3
